US04536505
A solution of 2.12 ml of N,N-dimethylformamide in 20 ml of 1,2-dichloroethane is cooled to 0° and 3.1 ml of phosphorus oxychloride is added dropwise. The reaction is stirred for 10 minutes at 15° and recooled to 0° before a solution of 4.85 g of N-(3-pyridyl)indole in 10 ml of 1,2-dichloroethane is added. After 2 hours at 5°, the reaction mixture is refluxed for 15 minutes, cooled to room temperature and a solution of 18.75 g of sodium acetate trihydrate in 25 ml of water is added. After an additional 15 minutes at reflux, the organic phase is separated, washed with sodium bicarbonate and water, and dried over magnesium sulfate. Filtration, evaporation and recrystallization of the residue from methylene chloride-methanol yields N-(3-pyridyl)-indole-3-carboxaldehyde, m.p. 148°-150°.

reactant | N,N-dimethylformamide | 2.12 ml | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 3.1 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N-(3-pyridyl)indole | 4.85 g | N1=CC(=CC=C1)N1C=CC2=CC=CC=C12 | C13H10N2
reactant | sodium acetate trihydrate | 18.75 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | water | 25 ml | O | H2O
product | N-(3-pyridyl)-indole-3-carboxaldehyde | N1=CC(=CC=C1)N1C=C(C2=CC=CC=C12)C=O | C14H10N2O
